US07838499B2
Preparation of (2R,3R,4R,5S,6S)-2-(acetoxymethyl)-6-(4-chloro-3-(4-(prop-1-en-2-yl)benzyl)phenyl)tetrahydro-2H-pyran-3,4,5-triyl triacetate (Intermediate AZ)
To a solution of Ph3PMeI (378 mg, 0.935 mmol) in toluene (3 mL) was added KN(TMS)2 (0.5 M, 1.8 mL) dropwise. After stirring for 40 min, (2R,3R,4R,5S,6S)-2-(acetoxymethyl)-6-(3-(4-acetylbenzyl)-4-chlorophenyl)tetrahydro-2H-pyran-3,4,5-triyl triacetate (intermediate AY) (360 mg, 0.626 mmol) in toluene (5 mL) was added. After stirring overnight, the reaction was quenched with a saturated solution of NaHCO3. The mixture was extracted 3× with AcOEt. The combined organic extracts were washed 1× with brine prior to drying over Na2SO4. Concentration of the solution gave an oily residue, which was redissolved in 3 mL of CH2Cl2, and then 0.2 mL of pyridine (2.47 mmol), 0.23 mL of Ac2O (2.44 mmol) and DMAP (catalytic quantity) were added. The mixture was stirred for 2 h at room temperature. Additional CH2Cl2 (20 mL) was added, the mixture was washed 2× with 1N HCl and 1× with brine prior to drying over Na2SO4. Concentration of the solution and purification of the crude product by silical gel column gave intermediate AZ (286 mg).

reactant | (2R,3R,4R,5S,6S)-2-(acetoxymethyl)-6-(3-(4-acetylbenzyl)-4-chlorophenyl)tetrahydro-2H-pyran-3,4,5-triyl triacetate | 0.626 mmol, 360 mg | C(C)(=O)O[C@@H]1[C@H](O[C@H]([C@@H]([C@H]1OC(C)=O)OC(C)=O)C1=CC(=C(C=C1)Cl)CC1=CC=C(C=C1)C(C)=O)COC(C)=O | C29H31ClO10
reactant | pyridine | 2.47 mmol, 0.2 mL | N1=CC=CC=C1 | C5H5N
reactant | Ac2O | 2.44 mmol, 0.23 mL | CC(=O)OC(=O)C | C4H6O3
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | (2R,3R,4R,5S,6S)-2-(acetoxymethyl)-6-(4-chloro-3-(4-(prop-1-en-2-yl)benzyl)phenyl)tetrahydro-2H-pyran-3,4,5-triyl triacetate | C(C)(=O)O[C@@H]1[C@H](O[C@H]([C@@H]([C@H]1OC(C)=O)OC(C)=O)C1=CC(=C(C=C1)Cl)CC1=CC=C(C=C1)C(=C)C)COC(C)=O | C30H33ClO9
